US09315506B2
To a mixture of 4-(tert-butoxycarbonylamino)-2-nitrobenzoic acid in 60 ml of dichloromethane were added 4.8 g of N,N,N′,N′-tetramethyl-O-(1H-benzotriazol-1-yl)-uronium-hexafluorophosphate. After stirring for 15 min. a mixture of 3.8 g of L-glutamic acid-di tert.-butylester hydrochloride in 60 ml dichloromethane and 3 ml triethylamine was added dropwise. After stirring for 20 hours at room temperature, the mixture was filtered and the filtrate was washed five times with 10% aqueous citric acid, four times with 5% aqueous sodium carbonate solution and two times with water. The organic layer was dried over magnesium sulphate and concentrated in vacuum to give 6.3 g of di-tert-butyl N-(4-(tert-butoxycarbonylamino)-2-nitrobenzamido)-L-glutamate as a yellow foam. This was directly used in example 3.

reactant | 4-(tert-butoxycarbonylamino)-2-nitrobenzoic acid | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C12H14N2O6
reactant | N,N,N′,N′-tetramethyl-O-(1H-benzotriazol-1-yl)-uronium hexafluorophosphate | 4.8 g | C[N+](=C(ON1N=NC2=C1C=CC=C2)N(C)C)C.F[P-](F)(F)(F)(F)F
reactant | L-glutamic acid-di tert.-butylester hydrochloride | 3.8 g | Cl.C(C)(C)(C)OC([C@@H](N)CCC(=O)OC(C)(C)C)=O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | di-tert-butyl N-(4-(tert-butoxycarbonylamino)-2-nitrobenzamido)-L-glutamate | 6.3 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)NN[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C25H38N4O9
